US07943622B2
Benzyl 2-(2-(pyridin-3-yl)ethyl)piperazine-1-carboxylate dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of 1-benzyl 4-tert-butyl 2-(2-(pyridin-3-yl)ethyl)piperazine-1,4-dicarboxylate (130.2 mg, 0.306 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were concentrated under reduced pressure. The material was dissolved in MeOH (1 mL) and 4 M HCl in 1,4-dioxane (0.015 mL) was added. The mixture was concentrated under reduced pressure to give 71.0 mg (58%) of the desired product. LC-MS: RT=3.50 min, [M+H]+=326.2.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | 1-benzyl 4-tert-butyl 2-(2-(pyridin-3-yl)ethyl)piperazine-1,4-dicarboxylate | 0.306 mmol, 130.2 mg | N1=CC(=CC=C1)CCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C24H31N3O4
solvent | MeOH | 1 mL | CO | CH4O
product | Benzyl 2-(2-(pyridin-3-yl)ethyl)piperazine-1-carboxylate dihydrochloride | 71.0 mg, 58% | Cl.Cl.N1=CC(=CC=C1)CCC1N(CCNC1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C19H23N3O2.2ClH/c23-19(24-15-17-5-2-1-3-6-17)22-12-11-21-14-18(22)9-8-16-7-4-10-20-13-16;;/h1-7,10,13,18,21H,8-9,11-12,14-15H2;2*1H
